US06951879B2
According to the method in example 9, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole 1,1-dioxide and azetidine were converted to yield 6-(3-Azetidin-1-yl-propoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole 1,1-dioxide as yellow solid, MS: 435 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole 1,1-dioxide | BrC1=CC=C(C=C1)C1=NS(C2=C1C=CC(=C2)OCCCBr)(=O)=O | C16H13Br2NO3S
reactant | azetidine | N1CCC1 | C3H7N
product | 6-(3-Azetidin-1-yl-propoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole 1,1-dioxide | N1(CCC1)CCCOC1=CC2=C(C(=NS2(=O)=O)C2=CC=C(C=C2)Br)C=C1 | C19H19BrN2O3S
